US08202863B2
4-Fluorobenzamidine hydrochloride (1.25 g, 7.16 mmol) is added to a solution of sodium metal (0.17 g, 7.39 mmol) in dry ethanol (25 mL) and stirred at room temperature for 20 min. Ethyl-2-acetyl-3-(dimethylamino)acrylate (1.35 g, 7.16 mmol) is added. The mixture is heated to reflux for 3 hours. The solvent is removed in vacuo. The residue is dissolved in EtOAc, washed with water and brine, dried (MgSO4), filtered and concentrated in vacuo to afford ethyl-2-(4-fluorophenyl)-4-methyl-pyrimidine-5-carboxylate (1.65 g, 87%) as a solid. MS: 261 (M+H) 261.

reactant | 4-Fluorobenzamidine hydrochloride | 7.16 mmol, 1.25 g | Cl.FC1=CC=C(C(=N)N)C=C1
reactant | sodium | 7.39 mmol, 0.17 g | [Na] | Na
reactant | Ethyl-2-acetyl-3-(dimethylamino)acrylate | 7.16 mmol, 1.35 g | C(C)OC(C(=CN(C)C)C(C)=O)=O | C9H15NO3
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | ethyl-2-(4-fluorophenyl)-4-methyl-pyrimidine-5-carboxylate | 1.65 g, 87% | C(C)OC(=O)C=1C(=NC(=NC1)C1=CC=C(C=C1)F)C | C14H13FN2O2
